US04400382
2-Acetyl-5-methyl-pyrido(2,3-e)(1,2,4)triazolo(4,3-a)pyrazine-1,4-(2H,5H)dione
A mixture of 1.8 g. of 5-methyl-pyrido(2,3-e)(1,2,4)-triazolo(4,3-a)pyrazine-1,4-(2H,5H)dione in 25 ml. of acetic anhydride and 50 ml. of acetic acid was stirred and refluxed for 5 hours.

reactant | 5-methyl-pyrido(2,3-e)(1,2,4)-triazolo(4,3-a)pyrazine-1,4-(2H,5H)dione | CN1C(C=2N(C3=C1N=CC=C3)C(NN2)=O)=O | C9H7N5O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Acetyl-5-methyl-pyrido(2,3-e)(1,2,4)triazolo(4,3-a)pyrazine-1,4-(2H,5H)dione | C(C)(=O)N1N=C2N(C3=C(N(C2=O)C)N=CC=C3)C1=O | C11H9N5O3
